US04996318
Trimethylsilyl iodide (5.12 ml, 7.20 g, 36.0 mmol) is added dropwise to a solution of 17α,21-dihydroxypregna-1,4-diene-3,11,20-trione (3.23 g) in freshly distilled acetonitrile. After 30 min, sodium sulfite solution (5%, 150 ml) is added to the reaction mixture. The mixture is partitioned with chloroform (400 ml). The phases are separated, and the aqueous phases is extracted twice with chloroform. The organic layers are combined, washed with sodium bicarbonate (5%), saline, dried over sodium sulfate and concentrated. The concentrate is flash chromatographed eluting with ethyl acetate/hexane (2.3/1). The appropriate fractions are pooled to give 21-hydroxypregna-1,4-diene-3,11,20-trione as an oil and 17-epi-21-hydroxypregna-1,4-diene-3,11,20-trione as a solid, mp 203-206°.

reactant | Trimethylsilyl iodide | 36.0 mmol, 5.12 ml, 7.20 g | C[Si](C)(C)I | C3H9ISi
reactant | 17α,21-dihydroxypregna-1,4-diene-3,11,20-trione | 3.23 g | O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3C(C[C@]12C)=O)=O | C21H26O5
reactant | sodium sulfite | 150 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 21-hydroxypregna-1,4-diene-3,11,20-trione | OCC([C@H]1CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3C(C[C@]12C)=O)=O)=O | C21H26O4
